US06329375B1
2,3-bis(4-bromophenyl)-5-methyl-6-methylaminoquinoxaline was treated with trifluoroacetic anhydride to give 2,3-bis-(4-bromophenyl)-5-methyl-6-(N-methyl-N-trifluoroacetylamino)quinoxaline which was then nitrated with fuming nitric acid in trifluoroacetic anhydride followed by reduction with palladium on charcoal deprotection with potassium carbonate in methanol, and cyclization with cyanogen bromide to yield the title compound.

reactant | 2,3-bis(4-bromophenyl)-5-methyl-6-methylaminoquinoxaline | BrC1=CC=C(C=C1)C1=NC2=CC=C(C(=C2N=C1C1=CC=C(C=C1)Br)C)NC | C22H17Br2N3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,3-bis-(4-bromophenyl)-5-methyl-6-(N-methyl-N-trifluoroacetylamino)quinoxaline | BrC1=CC=C(C=C1)C1=NC2=CC=C(C(=C2N=C1C1=CC=C(C=C1)Br)C)N(C(C(F)(F)F)=O)C | C24H16Br2F3N3O
